US07129238B2
(RS)-[5-Ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-2-methoxy-acetamide. Light yellow oil. MS 403.4 ([M+H]+)

reactant | (RS)-[5-Ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-methoxy-acetic acid | C(C)OC=1C(=CC(=C(C1)C(C(=O)O)OC)F)OCCO | C13H17FO6
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-[5-ethoxy-2-fluoro-4-(2-hydroxy-ethoxy)-phenyl]-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=C(C=C(C(=C2)OCC)OCCO)F)=O)C=C1 | C21H23FN2O5
